US07432258B2
h) 2-(4-biphenylyl)-N-methyl-1-(1-pyrrolidinyl)-2-propanamine
LAH (447 mg, 11.8 mmol ) was added to a solution of 1,1-dimethylethyl [1-(4-biphenylyl)-1-methyl-2-oxo-2-(1-pyrrolidinyl)ethyl]carbamate (580 mg, 1.47 mmol) in THF (20 ml) at 0° C. under argon. The resulting mixture was then refluxed for 2.5 h. The reaction mixture was then cooled in and ice bath and diluted with toluene (20 ml). Water (847 ul, 47 mmol) was added followed by NaF (1.48 g, 35.3 mmol) and the mixture was stirred at 0° C. for 30 min, filtered and the filter pad was washed with THF. The combined filtrates were concentrated to give 417 mg (96%) as a light brown oil. MS(ES) m/e 295.4 [M+H]+

reactant | LAH | 11.8 mmol, 447 mg | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | 1,1-dimethylethyl [1-(4-biphenylyl)-1-methyl-2-oxo-2-(1-pyrrolidinyl)ethyl]carbamate | 1.47 mmol, 580 mg | C1(=CC=C(C=C1)C(C(N1CCCC1)=O)(C)NC(OC(C)(C)C)=O)C1=CC=CC=C1 | C24H30N2O3
reactant | Water | 47 mmol, 847 ul | O | H2O
reactant | NaF | 35.3 mmol, 1.48 g | [F-].[Na+]
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
product | 2-(4-biphenylyl)-N-methyl-1-(1-pyrrolidinyl)-2-propanamine | C1(=CC=C(C=C1)C(CN1CCCC1)(C)NC)C1=CC=CC=C1 | C20H26N2
